US07419988B2
1,1-dimethylethyl [4-bromo-3-(4-nitrophenyl)-1H-pyrazol-1-yl]acetate
Following the procedure described for Intermediate 3 with 4-bromo-3-(4-nitrophenyl)-1H-pyrazole and dimethylethyl bromoacetate furnished the title compound. ESMS [M+H]+: 382.0

reactant | 4-bromo-3-(4-nitrophenyl)-1H-pyrazole | BrC=1C(=NNC1)C1=CC=C(C=C1)[N+](=O)[O-] | C9H6BrN3O2
reactant | dimethylethyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | 1,1-dimethylethyl [4-bromo-3-(4-nitrophenyl)-1H-pyrazol-1-yl]acetate | BrC=1C(=NN(C1)CC(=O)OC(C)(C)C)C1=CC=C(C=C1)[N+](=O)[O-] | C15H16BrN3O4
